US08349880B2
Hoveyda-Grubbs Catalyst 2nd Generation (109 mg, 0.173 mmol) was added to a solution of 1-allyl-N-(4-(4-chloro-1H-imidazol-1-yl)-3-methoxyphenyl)-5-(1-(4-fluorophenyl)but-3-enyl)-1H-1,2,4-triazol-3-amine, TFA (410 mg, 0.691 mmol) in DCE (50.0 mL). The flask was flushed with nitrogen, sealed, and heated at 70° C. for 72 h. The reaction mixture was cooled to rt and an additional portion of Hoveyda-Grubbs Catalyst 2nd Generation (109 mg, 0.173 mmol) was added. The mixture was flushed with nitrogen, sealed, and heated at 70° C. for an additional 24 h. The crude reaction contents were directly loaded onto silica gel and the product was purified using silica gel column chromatography (10-75% EtOAc/chloroform, linear gradient) to afford (Z)—N-(4-(4-chloro-1H-imidazol-1-yl)-3-methoxyphenyl)-9-(4-fluorophenyl)-8,9-dihydro-5H-[1,2,4]triazolo[1,5-a]azepin-2-amine (40 mg, 13% yield) as a solid. LC-MS (M+H)+ 451.1. 1H NMR (500 MHz, chloroform-d) δ ppm 7.52 (d, J=1.53 Hz, 1 H) 7.40 (d, J=2.14 Hz, 1 H) 7.24 (dd, J=8.55, 5.19 Hz, 2 H) 7.09 (d, J=8.55 Hz, 1 H) 7.01-7.07 (m, 3 H) 6.86 (dd, J=8.39, 2.29 Hz, 1 H) 6.78 (s, 1 H) 5.94-6.05 (m, 1 H) 5.84-5.94 (m, 1 H) 4.84 (dt, J=17.70, 2.14 Hz, 1 H) 4.57-4.66 (m, 1 H) 4.50 (dd, J=8.39, 3.51 Hz, 1 H) 3.80 (s, 3 H) 2.82-2.95 (m, 1 H) 2.71-2.82 (m, 1 H).

reactant | 1-allyl-N-(4-(4-chloro-1H-imidazol-1-yl)-3-methoxyphenyl)-5-(1-(4-fluorophenyl)but-3-enyl)-1H-1,2,4-triazol-3-amine | C(C=C)N1N=C(N=C1C(CC=C)C1=CC=C(C=C1)F)NC1=CC(=C(C=C1)N1C=NC(=C1)Cl)OC | C25H24ClFN6O
reactant | TFA | 0.691 mmol, 410 mg | C(=O)(C(F)(F)F)O | C2HF3O2
catalyst | Hoveyda-Grubbs Catalyst 2nd Generation | 0.173 mmol, 109 mg | CC1=CC(=C(C(=C1)C)N2CCN(C2=[Ru](=CC3=C(C=CC=C3)OC(C)C)(Cl)Cl)C4=C(C=C(C=C4C)C)C)C
solvent | DCE | 50.0 mL | ClCCCl | C2H4Cl2
catalyst | Hoveyda-Grubbs Catalyst 2nd Generation | 0.173 mmol, 109 mg | CC1=CC(=C(C(=C1)C)N2CCN(C2=[Ru](=CC3=C(C=CC=C3)OC(C)C)(Cl)Cl)C4=C(C=C(C=C4C)C)C)C
product | (Z)—N-(4-(4-chloro-1H-imidazol-1-yl)-3-methoxyphenyl)-9-(4-fluorophenyl)-8,9-dihydro-5H-[1,2,4]triazolo[1,5-a]azepin-2-amine | 40 mg, 13% yield | ClC=1N=CN(C1)C1=C(C=C(C=C1)NC1=NN2C(C(C\C=C/C2)C2=CC=C(C=C2)F)=N1)OC | C23H20ClFN6O
